US06919356B2
Part H: Preparation of N-methyl-3-bromo-5-nitrobenzamide
A suspension of 3-bromo-5-nitrobenzoic acid (7.10 g, 28.9 mmol) in dichloromethane (50 mL) was treated with oxalyl chloride (5.04 mL, 57.7 mmol) and a few drops of N,N-dimethylformamide, producing gas evolution. After 2 hours, the mixture was concentrated to give an oil, which was dissolved in tetrahydrofuran and added dropwise to a stirred solution of methylamine in tetrahydrofuran (2.0 M, 28.9 mL, 57.7 mmol) at 0° C. After stirring overnight, the mixture was treated with water, ethyl acetate and 0.2 N aqueous hydrochloric acid. The layers were separated after mixing, and the organic phase was washed with 0.2 N aqueous hydrochloric acid, then with saturated aqueous sulfate and concentrated under vacuum to provide a yellow solid (7.0 g, 94%). 1H NMR (300 MHz, DMSO-d6) δ9.92 (m, 1H), 8.64 (s, 1H), 8.53 (s, 1H), 8.43 (s, 1H), 2.81 (d, J=7 Hz, 3H).

reactant | 3-bromo-5-nitrobenzoic acid | 28.9 mmol, 7.10 g | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
reactant | oxalyl chloride | 57.7 mmol, 5.04 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | CN | CH5N
reactant | hydrochloric acid | 0.2 N | Cl | ClH
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 57.7 mmol, 2.0 M, 28.9 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-methyl-3-bromo-5-nitrobenzamide | 7.0 g, 94% | CNC(C1=CC(=CC(=C1)[N+](=O)[O-])Br)=O | C8H7BrN2O3
